US06953806B2
30 ml of 4N hydrogen chloride solution in dioxan was added to 4.06 g (10.8 mmol) of trans methanesulfonic acid 3-{4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexyl}-propyl ester. After stirring of the reaction mixture for 3 hours at room temperature, it was concentrated under reduced pressure. The residue formed was stirred in ether and the crystals formed were filtered off and washed with ether. After drying under reduced pressure and at and 45° C., 3.12 g (92.4%) trans-methanesulfonic acid 3-[4-(2-methylamino-ethyl)-cyclohexyl]-propyl ester HCl salt could be isolated as colorless crystals, MS: 278 (MH+).

reactant | hydrogen chloride | 4N, 30 ml | Cl | ClH
reactant | trans methanesulfonic acid 3-{4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexyl}-propyl ester | 10.8 mmol, 4.06 g | C(C)(C)(C)OC(=O)N(CC[C@@H]1CC[C@H](CC1)CCCOS(=O)(=O)C)C | C18H35NO5S
solvent | dioxan | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
product | trans-methanesulfonic acid 3-[4-(2-methylamino-ethyl)-cyclohexyl]-propyl ester HCl salt | 3.12 g, 92.4% | Cl.CNCC[C@@H]1CC[C@H](CC1)CCCOS(=O)(=O)C | InChI=1S/C13H27NO3S.ClH/c1-14-10-9-13-7-5-12(6-8-13)4-3-11-17-18(2,15)16;/h12-14H,3-11H2,1-2H3;1H/t12-,13-;
